US06090836
A solution of 3-chloro-4-dimethylcarbamoylthiophenyl acetic acid methyl ester (10.028 grams; 34.848 mmol) in dry MeOH (90 mL) was treated with a solution of sodium methoxide (4.37 M; 11.16 mL; 48.788 mmol). The reaction was refluxed for 2 hours. The reaction mixture was cooled to 20 ° C. and transferred to a dropping funnel. The dropping funnel was placed atop a flask containing a solution of dibromopropane (14.15 mL; 139.392 mmol) in dry MeOH (50 mL). The contents of the dropping funnel were added to the flask dropwise, and the solution stirred for 2 hours. The reaction mixture was partitioned between isopropyl acetate and pH 4 buffer. The layers were separated and the organic washed once with water. The organic was dried over magnesium sulfate, filtered and concentrated. Silica gel chromatography afforded 3-chloro-4-(3-bromopropyl)thiophenyl acetic acid methyl ester.

reactant | 3-chloro-4-dimethylcarbamoylthiophenyl acetic acid methyl ester | 34.848 mmol, 10.028 grams | COC(CC1=CC(=C(C=C1)SC(N(C)C)=O)Cl)=O | C12H14ClNO3S
reactant | sodium methoxide | 48.788 mmol, 4.37 M, 11.16 mL | C[O-].[Na+]
reactant | dibromopropane | 139.392 mmol, 14.15 mL | BrC(C)(C)Br | C3H6Br2
solvent | MeOH | 90 mL | CO | CH4O
solvent | MeOH | 50 mL | CO | CH4O
product | 3-chloro-4-(3-bromopropyl)thiophenyl acetic acid methyl ester | COC(CC1=CC(=C(C=C1)SCCCBr)Cl)=O | C12H14BrClO2S
